US08629157B2
Step 1: Synthesis of (S)-1-(4-chloro-phenyl)-5-oxo-pyrrolidine-2-carboxylic acid
To a stirred suspension of (S)-5-oxo-pyrrolidine-2-carboxylic acid (775 mg, 6 mmol) in acetonitrile (10 mL) 1,8-diazabicyclo[5,4,0]undec-7-ene (DBU) (1.8 mL, 12 mmol) is added at room temperature. After 10 min di-μ-hydroxy-bis[N,N,N′,N′-tetramethylenediamine)-copper (II) chloride (Cu-TMEDA) (300 mg, 0.65 mmol) is added to the clear solution. The bluish green colored mixture is stirred for 10 min and 4-chlorophenylboronic acid (1 g, 6.4 mmol) is added. After 20 h acetonitrile is evaporated in vacuo, the concentrate taken up in ammonium chloride (150 mL) and the aqueous layer is washed with ethyl acetate (3×100 mL). The aqueous layer is cooled in an ice-bath, treated with 1 N sulfuric acid to pH 2 and extracted with ethyl acetate (3×100 mL). Combined organic extracts washed with brine (2×50 mL), dried over anhydrous Na2SO4 and solvent removed in vacuo to give the title compound as an off-white solid. ESI m/z 240 [M+H]+.

reactant | (S)-5-oxo-pyrrolidine-2-carboxylic acid | 6 mmol, 775 mg | O=C1CC[C@H](N1)C(=O)O | C5H7NO3
reactant | acetonitrile | 12 mmol, 10 mL | C(C)#N | C2H3N
reactant | 4-chlorophenylboronic acid | 6.4 mmol, 1 g | ClC1=CC=C(C=C1)B(O)O | C6H6BClO2
product | (S)-1-(4-chloro-phenyl)-5-oxo-pyrrolidine-2-carboxylic acid | ClC1=CC=C(C=C1)N1[C@@H](CCC1=O)C(=O)O | C11H10ClNO3
